US06054412
3-(4-Chlorophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole (No. Ia.001)
5.7 g (41 nmol) of gaseous hexafluoro-2-butyne were passed at below (-50)° C. into a suspension, cooled to (-70)° C., of 9 g (36 mmol) of α-bromo-4-chlorobenzaldehyde methylhydrazone in 100 ml of toluene. The mixture was subsequently heated to (-25)° C., and 8.4 g (83 mmol) of triethylamine were added dropwise at this temperature. After the mixture had been stirred for 2 hours at this temperature and for a further 16 hours at approx. 20° C., it as washed with water, dried over magnesium sulfate and finally concentrated.

reactant | hexafluoro-2-butyne | 41 nmol, 5.7 g | FC(C#CC(F)(F)F)(F)F | C4F6
reactant | α-bromo-4-chlorobenzaldehyde methylhydrazone | 36 mmol, 9 g | CNN=C(C1=CC=C(C=C1)Cl)Br | C8H8BrClN2
reactant | triethylamine | 83 mmol, 8.4 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Chlorophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole | ClC1=CC=C(C=C1)C1=NN(C(=C1C(F)(F)F)C(F)(F)F)C | C12H7ClF6N2
